US06313107B1
6-Bromo-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-1-carbaldehyde (Intermediate 50)
A solution of 6-bromo-4,4-dimethyl-1,2,3,4-tetrahydroquinoline, available in accordance with U.S. Pat. No. 5,089,509, the specification of which is incorporated herein by reference (1.8 g, 7.5 mmol) in 10 mL of formic acid was refluxed for 3 h. The reaction mixture was then cooled to ambient temperature and poured into ice-cold saturated aqueous sodium bicarbonate solution and extracted with diethyl ether (×2). The combined organic phase was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to a residue which was subjected to flash column chromatography over silica gel (230-400 mesh) using 15-25% ethyl acetate in hexane as the eluent to afford the title compound as a pale yellow solid (1.8 g, 90%).

reactant | 6-bromo-4,4-dimethyl-1,2,3,4-tetrahydroquinoline | BrC=1C=C2C(CCNC2=CC1)(C)C | C11H14BrN
reactant | formic acid | 10 mL | C(=O)O | CH2O2
product | 6-Bromo-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-1-carbaldehyde | 1.8 g, 90% | BrC=1C=C2C(CCN(C2=CC1)C=O)(C)C | C12H14BrNO
